US07354917B2
(i) (2-Bromo-ethoxy)-benzene
A suspension of phenol (5 g, 0.053 mol), 1,2-dibromethane (60 g, 0.319 mol) and K2CO3 (22 g, 0.16 mol) in dry acetonitrile (100 ml) was stirred at 60° C. overnight under nitrogen atmosphere. The reaction mixture was filtered and the solvent concentrated under reduced pressure. The residue was purified by column chromatography over silica gel using 10% ethyl acetate in petroleum ether as eluent to yield (10 g) of the sub-title compound as a solid.

reactant | phenol | 0.053 mol, 5 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,2-dibromethane | 0.319 mol, 60 g | BrCCBr | C2H4Br2
reactant | K2CO3 | 0.16 mol, 22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (2-Bromo-ethoxy)-benzene | 10 g | BrCCOC1=CC=CC=C1 | C8H9BrO
